* /home/roshan/esim-workspace/calc16/calc16.cir

* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ calcu16
v1  clk gnd pulse(5 0 1m 1m 1m 20 40)
* u2  clk net-_u1-pad1_ adc_bridge_1
* u3  net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ 1 2 3 4 5 6 7 8 dac_bridge_8
* u4  net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ 9 10 11 12 13 14 15 16 dac_bridge_8
* u5  1 plot_v1
* u6  2 plot_v1
* u7  3 plot_v1
* u8  4 plot_v1
* u9  5 plot_v1
* u10  6 plot_v1
* u11  7 plot_v1
* u12  8 plot_v1
* u13  9 plot_v1
* u14  10 plot_v1
* u15  11 plot_v1
* u16  12 plot_v1
* u17  13 plot_v1
* u18  14 plot_v1
* u19  15 plot_v1
* u20  16 plot_v1
a1 [net-_u1-pad1_ ] [net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ ] u1
a2 [clk ] [net-_u1-pad1_ ] u2
a3 [net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u1-pad9_ ] [1 2 3 4 5 6 7 8 ] u3
a4 [net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ net-_u1-pad16_ net-_u1-pad17_ ] [9 10 11 12 13 14 15 16 ] u4
* Schematic Name:                             calcu16, NgSpice Name: calcu16
.model u1 calcu16(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, NgSpice Name: dac_bridge
.model u4 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.1e-00 160e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(1)
plot v(2)
plot v(3)
plot v(4)
plot v(5)
plot v(6)
plot v(7)
plot v(8)
plot v(9)
plot v(10)
plot v(11)
plot v(12)
plot v(13)
plot v(14)
plot v(15)
plot v(16)
.endc
.end
